US07625932B2
Preparation of 3-(3-bromo-4-hydroxy-phenyl)-propionic acid methyl ester
Add HBF4-Et2O (4.4 mL, 27.7 mmol) to methyl-3-(4-hydroxyphenyl)-propionate (5.0 g, 27.7 mmol) in acetonitrile with stirring at 0° C. After 10 minutes, add N-bromosuccinimide (5.4 g, 30.5 mmol) and gradually allow to warm to room temperature. After 18 hours, pour into 38% NaHSO4 and extract with diethyl ether. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure to provide the title compound.

reactant | HBF4 Et2O | 27.7 mmol, 4.4 mL | [H+].[B-](F)(F)(F)F.CCOCC
reactant | methyl-3-(4-hydroxyphenyl)-propionate | 27.7 mmol, 5.0 g | COC(CCC1=CC=C(C=C1)O)=O | C10H12O3
reactant | N-bromosuccinimide | 30.5 mmol, 5.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaHSO4 | OS(=O)(=O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(3-bromo-4-hydroxy-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=C(C=C1)O)Br)=O | C10H11BrO3
